Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulindac / Aspirin / Hycodan
 
Attending: ___.
 
Chief Complaint:
cough, shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
PCP:
Name: ___ (resident)
Location: HEALTHCARE ASSOCIATES
___ 
Address: ___/CC-6, ___ 
Phone: ___ 
Fax: ___

This patient is an ___ year old woman with a PMH significant for 
chronic sinusitis, hypertension, obstructive sleep apnea, who 
re-presents with persistent hacking cough with yellow sputum, 
hoarseness of voice, and shortness of breath.  She was recently 
admitted from ___ for ___ four days of progressive 
productive cough, shortness of breath, and wheeze.  She was 
diagnosed with a likely viral vs bacterial bronchitis.  She was 
given azithromycin and prednisone x5 days, as well as 
nebulizers.  Upon discharge she states she was feeling better.  
However, since being home her hacking cough as persisted, 
resulting in shortness of breath.  She claims the cough is the 
same as before, with production of whitish-yellow sputum.  She 
continues to have poor sleep.  She denies fever, chills, n/v, 
CP, abd pain.  She does have sinus congestion which is chronic 
for her.  Since discharge, there has been no new environmental 
exposures.  Due to the persistence of symptoms, she presented to 
the ED this evening.

In the ED, T 98.2, BP 154/62, RR 28, 97%RA.  She was given 
duoneb x3.  CXR was performed.  She was noted to have 
considerable hacking cough.

Review of systems: As noted above, other wise all others 
negative.  She denies pain. 

 
Past Medical History:
# Status post right shoulder replacement  
# Status post right hip replacement.  
# Sinusitis.
# Nonallergic Rhinitis
# Bronchial asthma - not supported by PFTs
# OSA and ? obesity hypoventilation syndrome - followed by Dr. 
___ 
# GERD.  
# Hypertension.  
# History of glaucoma.  
# Arthritis.  
# CAD with normal persantine MIBI in ___.  
# History of cataract surgery.  
# Influenza A ___
 
Social History:
___
Family History:
Prostate Cancer: positive
Breast Cancer: Her mother, a daughter and a granddaughter.  Her 
___ died of breast cancer at age ___.
COPD: Her daughter died of complications associated w/ COPD
CAD: none 
 
Physical Exam:
VS: T 98.7, BP 144/77, HR 68, RR 18, 97%1L
Gen: awake and alert, hacking cough
HEENT: anicteric sclera, MMM,
Neck: supple no LAD
Heart: RRR no n/r/g
Lung: diffuse coarse BS with rhonci, inspiratory wheeze, poor 
air movement, no clear focality
Abd: soft NT/ND +BS no rebound or guarding
Ext: warm well perfused, trace pitting edema bilaterally
Skin: no rashes
Neuro: no focal deficits
 
Pertinent Results:
Trop-T: <0.01  
MODERATELY HEMOLYZED SPECIMEN
144 / ___
4.4 / 32 / 0.8  

12.0 \ 14.4/  235 
     / 42.5 \ 
N:62.9 L:28.0 M:4.2 E:4.0 Bas:0.9 

___: 12.6  PTT: 22.6  INR: 1.1 

Lactate 2.5
Blood cx: NGTD

EKG: NSR, nl axis.  Diffuse STT changes.  Similar to prior EKG

CXR:
FINDINGS: Frontal and lateral views of the chest were obtained. 
Mild left 
base opacity may reflect atelectasis, although an early 
consolidation cannot 
be entirely excluded. No pleural effusion or pneumothorax is 
seen. There is 
unchanged prominence of the right hilum. The aorta remains 
calcified and 
tortuous. The cardiac silhouette is top normal to mildly 
enlarged. Bilateral 
humeral prostheses are partially imaged. There is diffuse 
osteopenia. 
  
IMPRESSION: Minimal patchy left base opacity may reflect 
atelectasis, 
although an early/mild consolidation cannot be entirely 
excluded. 

 
Brief Hospital Course:
___ with chronic sinusitis and recent admission for bronchitis 
presents with persistent cough and shortness of breath

1. Presumed Bronchitis with reactive airways: Symptoms here 
appear to be a hold over from her recent admission.  Her 
symptoms are severe, but stable.  Her CXR is not clearly 
infiltrative.  Her hoarseness and hacking cough is most 
consistent with a viral process, with a component of reactive 
airways.  She does not have clear COPD
Continued combivent nebs, incentive spirometer; Tessalon perles, 
guaifenescin with codeine. She did not require oxygen as an 
inpatient and had improvement in her cough with codeine, nebs 
and decongestant (chlorpheniramine)

Hypertension, benign: Continued home regimen

Hyperlipidemia: simvastatin

Depression: Sertraline

Ppx: Heparin sq

Code: FULL

 
Medications on Admission:
1. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 

One (1) Tab Sust.Rel. Particle/Crystal PO once a day.  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 

3. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: Two (2)  Inhalation every ___ hours as needed 
for sob wheeze.  
4. Ipratropium Bromide 0.03 % Spray, Non-Aerosol Sig: One (1)  
Nasal at bedtime.  
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Atenolol 100 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
10. Sertraline 50 mg Tablet Sig: One (1) Tablet PO once a day: 
take with 25mg tablet for 75 mg total.  
11. Sertraline 25 mg Tablet Sig: One (1) Tablet PO once a day: 
take with 50mg tablet for a total of 75mg daily.  
12. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
16. Codeine-Guaifenesin ___ mg/5 mL Syrup Sig: ___ MLs PO 
Q4H (every 4 hours) as needed for cough.
Disp:*100 ML(s)* Refills:*0*

 
Discharge Medications:
1. Potassium Chloride 10 mEq Capsule, Sustained Release Sig: Two 
(2) Capsule, Sustained Release PO DAILY (Daily).  
2. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation Q4H (every 4 hours).
Disp:*40 neb* Refills:*2*
3. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation every ___ hours.
Disp:*40 neb* Refills:*2*
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
7. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
9. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
10. Sertraline 50 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
11. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
13. Codeine-Guaifenesin ___ mg/5 mL Syrup Sig: ___ MLs PO 
Q4H (every 4 hours) as needed for cough for 10 days.
Disp:*300 ML(s)* Refills:*1*
14. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) for 10 days.
Disp:*30 Capsule(s)* Refills:*0*
15. Chlorpheniramine Maleate 4 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day) for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
16. Codeine Sulfate 30 mg Tablet Sig: One (1) Tablet PO every 
six (6) hours as needed for cough for 10 days: take before bed, 
may make you sleepy during day,.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral bronchitis
Laryngitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with cough and shortness of breath and 
determined to have a viral bronchitis. This may last 2 weeks or 
more and treatment entails treatment of your symptoms, including 
cough and congestion. 
 
Followup Instructions:
___